reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]12[C:5]([H:15])([H:16])[C:6]2=[C:7]([H:14])[H:17])([H:8])([H:9])[H:10],96.40965969091721
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:15])([H:7])([H:8])[H:9].[O:4]([H:13])[H:16],60.250506798798106
[O:1]=[c:2]1[n:3]([H:7])[n:4][n:5][n:6]1[H:8]>>[O:1]([c:2]1[n:3][n:4][n:5][n:6]1[H:8])[H:7],56.17372420168079
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:7]/[C:6](=[N:4]/[C:5]([H:15])([H:16])[H:17])[H:18])[H:11])([H:8])([H:9])[H:10],69.86130962156429
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[O:2][C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[N:5]([H:15])[C@:6]1([O:7][H:8])[H:16],87.4418473810347
[C:1]([C:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:3]([C+:2]=[C:5]=[N-:6])([H:10])[H:11])([H:12])[H:13])([H:7])([H:8])[H:9],98.03355732804759
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O+:2]=[C-:3][N:4]([C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],80.2419971393274
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],42.74955321241909
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C@@:4]([C:6]#[C:7][H:15])([H:11])[O:5]1)([H:8])([H:9])[H:10],78.1853994475302
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:5]=[C:6]([O:4][H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9],66.33209909369529
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[C:3]([C:4]#[C:5][H:12])(=[C:6]=[N:7][H:8])[H:11].[O:1]=[C:2]([H:9])[H:10],43.72944321013289
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O+:4]=[C-:5][N:6]([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],80.7715436213772
[C:2](=[O:3])=[C:4]([H:10])[H:11].[N:1]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],71.64026636046131
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[C:5]=[N:6][H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],69.1982963697367
[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:4]([C:5](=[O:6])[H:11])([H:7])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:8],77.65475451119471
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:16])([C:4]([C:5]([H:13])([H:14])[H:15])=[O:6])[H:10])([H:7])([H:8])[H:9].[H:11][H:12],68.8544555344406
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([N:5]([C+:4]([H:11])[H:12])[H:13])=[C:6]([O-:7])[H:14])([H:9])[H:10])[H:8],43.273034854927396
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:2](=[C:5]=[N:6][C:3]#[C:4][H:9])[H:8])[H:7],104.79116916576099
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N:1]#[C:2][C@@:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([O:6][H:8])[H:7],91.64187583835472
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],10.256824318873313
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C@@:4]1([H:13])[C:5]([H:14])([H:15])[O:6]1)([H:11])[H:12])([H:10])[H:16])([H:7])([H:8])[H:9],72.0211042310965
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([O:3][C:5]#[N:6])=[C:4]([H:9])[H:10])([H:7])[H:8],85.9434589374522
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2]1([H:10])=[C:3]([H:12])[C:4]1([C:5](=[O:6])[H:14])[H:13],120.65490920579
[C:1]([O:4][C:3](=[N:2][H:10])[O:5][C:6]([H:11])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],57.08664703655171
